US08865682B2
A mixture of (3E)-5,6-difluoro-3-[4-(6-fluoropyridin-3-yl)-5,5-dimethylfuran-2(5H)-ylidene]-1,3-dihydro-2H-indol-2-one (50 mg, 0.14 mmol) and 3-methylamino-1,2-propanediol (50 mg, 0.48 mmol) in 5 mL of DMF was heated in 100° C. bath under nitrogen for 16 hours. The mixture was cooled to room temp and poured into 100 mL of water. The precipitates were filtered, washed with water and dried in vacuo to give (3E)-3-[4-{6-[(2,3-dihydroxypropyl)(methyl)amino]pyridin-3-yl}-5,5-dimethylfuran-2(5H)-ylidene]-5,6-difluoro-1,3-dihydro-2H-indol-2-one as a brown solid. Yield: 51 mg, 82%.

reactant | (3E)-5,6-difluoro-3-[4-(6-fluoropyridin-3-yl)-5,5-dimethylfuran-2(5H)-ylidene]-1,3-dihydro-2H-indol-2-one | 0.14 mmol, 50 mg | FC=1C=C2\C(\C(NC2=CC1F)=O)=C\1/OC(C(=C1)C=1C=NC(=CC1)F)(C)C | C19H13F3N2O2
reactant | 3-methylamino-1,2-propanediol | 0.48 mmol, 50 mg | CNCC(CO)O | C4H11NO2
reactant | water | 100 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (3E)-3-[4-{6-[(2,3-dihydroxypropyl)(methyl)amino]pyridin-3-yl}-5,5-dimethylfuran-2(5H)-ylidene]-5,6-difluoro-1,3-dihydro-2H-indol-2-one | OC(CN(C1=CC=C(C=N1)C1=C/C(/OC1(C)C)=C/1\C(NC2=CC(=C(C=C12)F)F)=O)C)CO | C23H23F2N3O4
